US07098212B2
2,5-Dichloro-pyridine-3-carbaldehyde
To a solution of 2,5-Dichloro-nicotinoyl chloride (15 g, 0.071 mol) in tetrahydrofuran was added tributyl-stannane (24.9 g, 0.086 mol) portionwise over 45 minutes. The resulting mixture was stirred at ambient temperature for 50 minutes, and then treated with tetrakis(triphenylphosphine)palladium(0) (0.82 g, 0.00071 mol). The reaction mixture was stirred at ambient temperature for 4 hours, poured into water; the product was extracted with ethylacetate, the combined organics were dried over magnesium sulfate, filtered and concentrated in vacuo. Silica gel chromatography (10% ethyl acetate/hexanes) followed by recrystallization from hexanes/ethylacetate gave the title compound (4.3 g).

reactant | 2,5-Dichloro-nicotinoyl chloride | 0.071 mol, 15 g | ClC1=C(C(=O)Cl)C=C(C=N1)Cl | C6H2Cl3NO
reactant | tributyl-stannane | 0.086 mol, 24.9 g | C(CCC)[SnH](CCCC)CCCC
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.00071 mol, 0.82 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,5-Dichloro-pyridine-3-carbaldehyde | 4.3 g | ClC1=NC=C(C=C1C=O)Cl | C6H3Cl2NO
